US04806685
2,2,2-Trifluoroacetophenone is reacted with triphenyl-(4-fluorobenzyl)-phosphonium chloride (R. A. Jones: Australian J. Chem. 18, 903-6 (1965) in ethanol in the presence of sodium ethoxide. 2-Phenyl-3,3,3-trifluoro-1-(4-fluorophenyl)-propene is obtained with a yield of 90%; b.p.: 105°-107° C./0.2 mm Hg, m.p.: 35°-41° C.

reactant | 2,2,2-Trifluoroacetophenone | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | triphenyl-(4-fluorobenzyl)-phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](CC1=CC=C(C=C1)F)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Phenyl-3,3,3-trifluoro-1-(4-fluorophenyl)-propene | yield of 90% | C1(=CC=CC=C1)C(=CC1=CC=C(C=C1)F)C(F)(F)F | C15H10F4
